### PR TITLE
[Merged by Bors] - feat(Analysis/InnerProductSpace): Gram matrix det ≠ 0 iff input vectors are independent

### PR DESCRIPTION
**Pull request by wwylele**
Small lemma extracted from #37295. Convenient for talking about the determinant directly without detour through Pos(Semi)def 

---

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

File: Mathlib/Analysis/Matrix/PosDef.lean [hunk 1]
```diff
@@ -90,6 +90,17 @@ lemma det_pos [DecidableEq n] (hA : A.PosDef) : 0 < det A := by
...
+lemma PosSemidef.posDef_iff_det_ne_zero [DecidableEq n] (hA : A.PosSemidef) :
+    A.PosDef ↔ A.det ≠ 0 where
+  mp h := h.det_pos.ne'
+  mpr h := by
+    refine hA.isHermitian.posDef_iff_eigenvalues_pos.mpr fun i ↦ ?_
+    apply lt_of_le_of_ne (hA.eigenvalues_nonneg i)
+    contrapose h
+    rw [hA.isHermitian.det_eq_prod_eigenvalues]
+    apply Finset.prod_eq_zero (Finset.mem_univ i)
+    simpa using h.symm
```
Comment (themathqueen) [inline Mathlib/Analysis/Matrix/PosDef.lean]: if you move this to `Analysis/Matrix/Order`, then this becomes
```suggestion
    A.PosDef ↔ A.det ≠ 0 := by
  simp [hA.posDef_iff_isUnit, isUnit_iff_isUnit_det]
```

File: Mathlib/Analysis/InnerProductSpace/GramMatrix.lean [hunk 2]
```diff
@@ -95,6 +96,11 @@ theorem linearIndependent_of_posDef_gram {v : n → E} (h_gram : PosDef (gram 
   have := h_gram.dotProduct_mulVec_pos (x := y)
   simp_all [star_dotProduct_gram_mulVec]
 
+omit [Finite n] in
+theorem linearIndependent_of_det_gram_ne_zero [Fintype n] [DecidableEq n] {v : n → E}
+    (h : (gram 𝕜 v).det ≠ 0) : LinearIndependent 𝕜 v :=
+  linearIndependent_of_posDef_gram <| (posSemidef_gram 𝕜 v).posDef_iff_det_ne_zero.mpr h
+
```
Comment (themathqueen) [inline Mathlib/Analysis/InnerProductSpace/GramMatrix.lean:103]: can you not make this an alias of the below lemma?
`alias ⟨linearIndependent_of_det_gram_ne_zero, _⟩ := det_gram_ne_zero_iff_linearIndependent`

Comment (wwylele) [reply Mathlib/Analysis/InnerProductSpace/GramMatrix.lean:103]: They have different hypothesis. `linearIndependent_of_det_gram_ne_zero` only needs `SeminormedAddCommGroup`

Comment (themathqueen) [reply Mathlib/Analysis/InnerProductSpace/GramMatrix.lean:103]: Oh, I see

**Comment by j-loreaux** [comment]
I'm okay with the import increase since this is a leaf (or at least it has no downstream import increases).

bors merge
